US09381698B2
Carbon black (10 g of Cabot R330A67) was added to 100 ml of water and stirred using a Cowles-type blade powered by an overhead shaft-driven motor operating at 500 rpm to form a carbon black slurry. Mixing was continued for 1 hour. Meanwhile, a solution of 3-trifluoromethylbenzene diazonium chloride was prepared by dissolving 0.64 g (0.004 mol) of m-trifluoromethyl-aniline in 10 ml of water containing 1.5 ml of concentrated HCl, chilling the solution to less than about 10° C. using an ice bath, and then adding 0.3 g (0.0043 mol) of sodium nitrite in 5 ml of water. The resulting mixture was stirred cold for 30 minutes and 30 mg of urea were added to decompose any excess nitrous acid. The resulting solution was added to the carbon black slurry and stirring was continued at ambient temperature for about 3 hours. Some gas evolution was noted.

reactant | m-trifluoromethyl-aniline | 0.004 mol, 0.64 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | sodium nitrite | 0.0043 mol, 0.3 g | N(=O)[O-].[Na+]
reactant | urea | 30 mg | NC(=O)N | CH4N2O
reactant | nitrous acid | N(=O)O | HNO2
reactant | carbon black | C | CH4
reactant | HCl | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 3-trifluoromethylbenzene diazonium chloride | [Cl-].FC(C=1C=C(C=CC1)[N+]#N)(F)F | InChI=1S/C7H4F3N2.ClH/c8-7(9,10)5-2-1-3-6(4-5)12-11;/h1-4H;1H/q+1;/p-1
